US04618358
N-[2-Nitro-5-(5-trifluoromethyl-2-pyridyloxy)phenyl]-aminomethylphosphonic acid (compound 56)
A mixture of 3 g of diethyl N-[2-nitro-5-(5-trifluoromethyl-2-pyridyloxy)phenyl]-aminomethylphosphonate and 5 g of trimethylbromosilane is stirred for 18 hours at 20° C. Excess trimethylbromosilane is removed by evaporation and the residue is then taken up in ethanol and the solution is concentrated, affording 2.51 g (96.9% of theory) of the title compound with a melting point of 94° C. (decompos.).

reactant | diethyl N-[2-nitro-5-(5-trifluoromethyl-2-pyridyloxy)phenyl]-aminomethylphosphonate | 3 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)NCP(OCC)(OCC)=O | C17H19F3N3O6P
reactant | trimethylbromosilane | 5 g | C[Si](Br)(C)C | C3H9BrSi
product | N-[2-Nitro-5-(5-trifluoromethyl-2-pyridyloxy)phenyl]-aminomethylphosphonic acid | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)NCP(O)(O)=O | C13H11F3N3O6P
